US06544980B2
4.3 Synthesis of 2-(4-(2-mercapto-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide
Prepare by the method of Example 3.3 using 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide, mercury (II) acetate, anisole, and trifluoroacetic acid to give the title compound.

reactant | 2-(4-(2-(p-methoxybenzylthio)-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide | CNC(C(CC1=CC=CC=C1)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)SCC3=CC=C(C=C3)OC)=O)C=CC=C2)=O | C42H44N4O6S
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
catalyst | mercury (II) acetate | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | 2-(4-(2-mercapto-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-3-phenyl-propionic acid, N-methyl amide | CNC(C(CC1=CC=CC=C1)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)S)=O)C=CC=C2)=O | C34H36N4O5S
